* File: AO32X1.pex.netlist
* Created: Mon Jun  5 11:27:12 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* 
.include "AO32X1.pex.netlist.pex"
.subckt AO32X1  D_VDD D_GND OUT A B C E D
* 
* D	D
* E	E
* C	C
* B	B
* A	A
* OUT	OUT
* D_GND	D_GND
* D_VDD	D_VDD
M_ENM1 N_N$2_M_ENM1_d N_A_M_ENM1_g N$7 N_D_GND_M_ENM1_b enm L=6e-07 W=2.4e-06
+ AD=2.88e-12 AS=7.2e-13 PD=7.2e-06 PS=3e-06 NRD=0.5 NRS=0.125
M_ENM2 N$7 N_B_M_ENM2_g N$9 N_D_GND_M_ENM1_b enm L=6e-07 W=2.4e-06 AD=7.2e-13
+ AS=7.2e-13 PD=3e-06 PS=3e-06 NRD=0.125 NRS=0.125
M_ENM3 N$9 N_C_M_ENM3_g N_D_GND_M_ENM3_s N_D_GND_M_ENM1_b enm L=6e-07 W=2.4e-06
+ AD=7.2e-13 AS=2.28e-12 PD=3e-06 PS=5.7e-06 NRD=0.125 NRS=0.395833
M_ENM4 N_AND_O1_M_ENM4_d N_N$2_M_ENM4_g N_D_GND_M_ENM3_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=1.37e-12 AS=7.6e-13 PD=4.8e-06 PS=1.9e-06 NRD=2.14062
+ NRS=1.1875
M_ENM10 N_OUT_M_ENM10_d N_N$27_M_ENM10_g N_D_GND_M_ENM10_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=1.37e-12 AS=7.65e-13 PD=4.8e-06 PS=2.6e-06 NRD=2.14062
+ NRS=1.19531
M_ENM8 N_N$27_M_ENM8_d N_AND_O1_M_ENM8_g N_D_GND_M_ENM10_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=7.65e-13 AS=7.65e-13 PD=2.6e-06 PS=2.6e-06 NRD=1.19531
+ NRS=1.19531
M_ENM9 N_N$27_M_ENM8_d N_AND_O2_M_ENM9_g N_D_GND_M_ENM9_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=7.65e-13 AS=1.37e-12 PD=2.6e-06 PS=4.8e-06 NRD=1.19531
+ NRS=2.14062
M_ENM7 N_AND_O2_M_ENM7_d N_N$17_M_ENM7_g N_D_GND_M_ENM7_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=1.37e-12 AS=6.93333e-13 PD=4.8e-06 PS=2e-06 NRD=2.14062
+ NRS=1.08333
M_ENM6 N$22 N_E_M_ENM6_g N_D_GND_M_ENM7_s N_D_GND_M_ENM1_b enm L=6e-07 W=1.6e-06
+ AD=4.8e-13 AS=1.38667e-12 PD=2.2e-06 PS=4e-06 NRD=0.1875 NRS=0.541667
M_ENM5 N_N$17_M_ENM5_d N_D_M_ENM5_g N$22 N_D_GND_M_ENM1_b enm L=6e-07 W=1.6e-06
+ AD=1.92e-12 AS=4.8e-13 PD=5.6e-06 PS=2.2e-06 NRD=0.75 NRS=0.1875
M_EPM2 N_N$2_M_EPM2_d N_A_M_EPM2_g N_D_VDD_M_EPM2_s D_VDD epm L=6e-07 W=2.4e-06
+ AD=2.88e-12 AS=1.56e-12 PD=7.2e-06 PS=3.7e-06 NRD=0.5 NRS=0.270833
M_EPM1 N_N$2_M_EPM1_d N_B_M_EPM1_g N_D_VDD_M_EPM2_s D_VDD epm L=6e-07 W=2.4e-06
+ AD=1.56e-12 AS=1.56e-12 PD=3.7e-06 PS=3.7e-06 NRD=0.270833 NRS=0.270833
M_EPM3 N_N$2_M_EPM1_d N_C_M_EPM3_g N_D_VDD_M_EPM3_s D_VDD epm L=6e-07 W=2.4e-06
+ AD=1.56e-12 AS=1.92e-12 PD=3.7e-06 PS=4.56e-06 NRD=0.270833 NRS=0.333333
M_EPM4 N_AND_O1_M_EPM4_d N_N$2_M_EPM4_g N_D_VDD_M_EPM3_s D_VDD epm L=6e-07
+ W=1.6e-06 AD=1.92e-12 AS=1.28e-12 PD=5.6e-06 PS=3.04e-06 NRD=0.75 NRS=0.5
M_EPM10 N_OUT_M_EPM10_d N_N$27_M_EPM10_g N_D_VDD_M_EPM10_s D_VDD epm L=6e-07
+ W=1.6e-06 AD=1.92e-12 AS=1.38667e-12 PD=5.6e-06 PS=3.06667e-06 NRD=0.75
+ NRS=0.541667
M_EPM9 N$29 N_AND_O1_M_EPM9_g N_D_VDD_M_EPM10_s D_VDD epm L=6e-07 W=3.2e-06
+ AD=9.6e-13 AS=2.77333e-12 PD=3.8e-06 PS=6.13333e-06 NRD=0.09375 NRS=0.270833
M_EPM8 N_N$27_M_EPM8_d N_AND_O2_M_EPM8_g N$29 D_VDD epm L=6e-07 W=3.2e-06
+ AD=3.84e-12 AS=9.6e-13 PD=8.8e-06 PS=3.8e-06 NRD=0.375 NRS=0.09375
M_EPM7 N_AND_O2_M_EPM7_d N_N$17_M_EPM7_g N_D_VDD_M_EPM7_s D_VDD epm L=6e-07
+ W=1.6e-06 AD=1.92e-12 AS=1.04e-12 PD=5.6e-06 PS=2.9e-06 NRD=0.75 NRS=0.40625
M_EPM5 N_N$17_M_EPM5_d N_E_M_EPM5_g N_D_VDD_M_EPM7_s D_VDD epm L=6e-07 W=1.6e-06
+ AD=1.04e-12 AS=1.04e-12 PD=2.9e-06 PS=2.9e-06 NRD=0.40625 NRS=0.40625
M_EPM6 N_N$17_M_EPM5_d N_D_M_EPM6_g N_D_VDD_M_EPM6_s D_VDD epm L=6e-07 W=1.6e-06
+ AD=1.04e-12 AS=1.92e-12 PD=2.9e-06 PS=5.6e-06 NRD=0.40625 NRS=0.75
*
.include "AO32X1.pex.netlist.AO32X1.pxi"
*
.ends
*
*
