* File: AO21X1.pex.netlist.pex
* Created: Mon Jun  5 11:18:03 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AO21X1%D_VDD 1 8 12 22 33 34 35
c24 35 0 0.284897f
c25 34 0 0.175749f
c26 33 0 0.239447f
c27 29 0 0.0701213f
c28 27 0 0.0701213f
c29 25 0 0.0701213f
c30 22 0 0.540585f
c31 12 0 0.613535f
c32 8 0 0.269938f
c33 4 0 0.239598f
r34 28 35 0.306944
r35 28 29 0.0120155
r36 26 34 0.17
r37 26 27 0.0120155
r38 24 33 0.17
r39 24 25 0.0120155
r40 18 29 0.0329425
r41 13 27 0.0329425
r42 12 29 0.0329425
r43 9 25 0.0329425
r44 8 27 0.0329425
r45 4 25 0.0329425
r46 1 22 0.14025
r47 1 18 0.1615
r48 1 12 0.034
r49 1 13 0.2125
r50 1 8 0.119
r51 1 9 0.1275
r52 1 4 0.068
.ends

.subckt PM_AO21X1%N$2 2 5 7 8 13 17 22 24 27 28 36 38 40 42 46
c66 46 0 0.0836348f
c67 42 0 0.428013f
c68 40 0 0.0643995f
c69 36 0 0.101864f
c70 28 0 0.166138f
c71 27 0 0.0785043f
c72 24 0 0.0176217f
c73 22 0 0.0700721f
c74 18 0 0.090247f
c75 17 0 0.179008f
c76 16 0 0.115676f
c77 13 0 0.59501f
c78 8 0 0.0797474f
c79 7 0 0.220188f
c80 5 0 0.237211f
c81 2 0 0.104757f
r82 40 46 0.0484745
r83 34 36 0.116875
r84 28 43 15.219
r85 28 42 15.219
r86 27 28 7
r87 25 38 0.00642418
r88 25 27 0.0991667
r89 24 36 0.00499195
r90 23 38 0.0396541
r91 23 24 0.100938
r92 22 38 0.0396541
r93 21 22 0.228437
r94 19 34 0.00499195
r95 19 46 0.175313
r96 17 21 0.0474919
r97 17 18 0.34
r98 16 18 0.0474919
r99 16 33 0.154062
r100 13 43 162.5
r101 9 42 135.417
r102 7 9 13.9682
r103 7 8 41.6667
r104 3 8 13.9682
r105 3 5 45.8333
r106 2 33 0.0484745
.ends

.subckt PM_AO21X1%D_GND 1 5 6 7 21 24 28 38
c31 38 0 0.348599f
c32 28 0 0.5404f
c33 24 0 0.434183f
c34 22 0 0.0701213f
c35 21 0 0.303551f
c36 7 0 0.23565f
c37 6 0 0.142257f
c38 5 0 0.175288f
c39 1 0 0.140243f
r40 21 22 0.0329425
r41 20 22 0.0329425
r42 16 22 0.0120155
r43 7 16 0.174722
r44 6 12 0.146389
r45 5 8 0.17
r46 1 12 0.0120155
r47 1 28 0.0329425
r48 1 32 0.0329425
r49 1 8 0.0120155
r50 1 24 0.0329425
r51 1 29 0.0329425
r52 1 38 0.14875
r53 1 20 0.01275
r54 1 21 0.18275
r55 1 32 0.08925
r56 1 28 0.24225
r57 1 29 0.221
r58 1 24 0.2465
.ends

.subckt PM_AO21X1%AND_O 2 5 8 11 15 18 19 20 25 32 34 37 41
c73 41 0 0.306891f
c74 37 0 0.187368f
c75 34 0 0.0863007f
c76 32 0 0.0428375f
c77 25 0 0.116928f
c78 20 0 0.0180908f
c79 19 0 0.0458968f
c80 18 0 0.0395214f
c81 15 0 0.121015f
c82 11 0 0.614109f
c83 8 0 0.107814f
c84 5 0 0.3813f
c85 2 0 0.0733059f
r86 34 41 0.0566888
r87 26 37 12.5
r88 25 26 7
r89 23 32 0.0297796
r90 23 25 0.273889
r91 21 32 0.015029
r92 21 41 0.8925
r93 19 32 0.0297796
r94 19 20 0.1275
r95 18 20 0.0474919
r96 18 31 0.219583
r97 13 15 14.5833
r98 9 15 1.46822
r99 9 11 189.583
r100 8 13 1.46822
r101 7 37 6.3741
r102 7 8 35.4167
r103 3 37 6.3741
r104 3 5 100
r105 2 31 0.0519666
.ends

.subckt PM_AO21X1%N$32 3 4 7 11 14 15 16 17 18 24 30 40 43 46
c62 46 0 0.242063f
c63 43 0 0.155981f
c64 40 0 0.243698f
c65 30 0 0.0373966f
c66 24 0 0.202777f
c67 18 0 0.00771609f
c68 17 0 0.0726284f
c69 16 0 0.0280884f
c70 15 0 0.0838355f
c71 14 0 0.0314798f
c72 11 0 0.451073f
c73 7 0 0.290332f
c74 4 0 0.0987884f
c75 3 0 0.0769658f
r76 38 46 18.0556
r77 37 38 7
r78 34 43 15.2843
r79 33 35 0.0374015
r80 33 34 7
r81 30 33 0.0102
r82 30 31 0.0272015
r83 29 40 0.217222
r84 24 37 0.023746
r85 24 35 0.278611
r86 18 29 0.0474919
r87 17 37 0.023746
r88 17 18 0.217222
r89 15 30 0.0351478
r90 15 16 0.4675
r91 14 16 0.0474919
r92 14 28 0.085
r93 9 46 6.3741
r94 9 11 114.583
r95 7 43 52.0833
r96 4 31 0.0991667
r97 3 28 0.0519666
.ends

.subckt PM_AO21X1%OUT 2 4 9 15 17
c11 20 0 0.122994f
c12 17 0 0.113527f
c13 15 0 0.0234681f
c14 9 0 0.198642f
c15 4 0 0.200122f
c16 2 0 0.0973906f
r17 17 20 0.0566888
r18 7 15 0.0004726
r19 7 9 0.0897222
r20 5 15 0.0497087
r21 5 20 0.23375
r22 4 15 0.0497087
r23 4 14 0.375417
r24 2 14 0.0519666
.ends

.subckt PM_AO21X1%B 1 3 5 9 12
c36 12 0 0.0407359f
c37 9 0 0.766803f
c38 5 0 0.196327f
c39 3 0 0.50891f
c40 1 0 0.13555f
r41 12 15 7
r42 7 9 225
r43 6 15 6.98411
r44 5 7 13.9682
r45 5 6 39.5833
r46 1 15 6.98411
r47 1 3 147.917
.ends

.subckt PM_AO21X1%A 2 5 9 12 14 20
c27 20 0 0.454919f
c28 14 0 0.0237285f
c29 12 0 0.0853064f
c30 9 0 0.553293f
c31 5 0 0.333409f
c32 2 0 0.299119f
r33 19 20 27.1739
r34 17 20 4.7259
r35 14 17 7
r36 11 12 19.9667
r37 7 20 8.31236
r38 7 9 135.417
r39 5 11 91.6667
r40 2 19 8.31236
r41 2 12 89.5833
.ends

.subckt PM_AO21X1%C 3 7 12 14 17 20
c36 20 0 0.0756132f
c37 17 0 0.0231648f
c38 14 0 0.225537f
c39 12 0 0.149807f
c40 7 0 0.464646f
c41 3 0 0.588355f
r42 17 20 7
r43 12 20 26.3889
r44 12 14 45.8333
r45 10 20 15.2843
r46 5 14 1.46822
r47 5 7 139.583
r48 3 10 164.583
.ends

