* File: AO222X1.pex.netlist.pex
* Created: Mon Jun  5 11:19:56 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AO222X1%D_VDD 1 8 12 16 20 24 28 60 61 62 63 64 65 66
c54 66 0 0.236001f
c55 65 0 0.152654f
c56 64 0 0.320532f
c57 63 0 0.215057f
c58 62 0 0.148777f
c59 61 0 0.168253f
c60 60 0 0.239733f
c61 52 0 0.0701213f
c62 50 0 0.0701213f
c63 42 0 0.0701213f
c64 40 0 0.0701213f
c65 38 0 0.0701213f
c66 28 0 0.269938f
c67 24 0 0.494755f
c68 20 0 0.549343f
c69 16 0 0.485599f
c70 12 0 0.269938f
c71 8 0 0.269938f
c72 4 0 0.239598f
c73 1 0 0.391746f
r74 51 66 0.17
r75 51 52 0.0120155
r76 49 65 0.17
r77 49 50 0.0120155
r78 46 64 0.321111
r79 43 63 0.17
r80 41 62 0.17
r81 41 42 0.0120155
r82 39 61 0.17
r83 39 40 0.0120155
r84 37 60 0.17
r85 37 38 0.0120155
r86 32 52 0.0329425
r87 29 50 0.0329425
r88 28 52 0.0329425
r89 24 50 0.0329425
r90 17 42 0.0329425
r91 13 40 0.0329425
r92 12 42 0.0329425
r93 9 38 0.0329425
r94 8 40 0.0329425
r95 4 38 0.0329425
r96 1 46 0.0120155
r97 1 20 0.0329425
r98 1 25 0.0329425
r99 1 43 0.0120155
r100 1 16 0.0329425
r101 1 21 0.0329425
r102 1 32 0.0765
r103 1 28 0.119
r104 1 29 0.1275
r105 1 24 0.204
r106 1 25 0.221
r107 1 20 0.2465
r108 1 21 0.2125
r109 1 16 0.255
r110 1 17 0.1615
r111 1 12 0.17
r112 1 13 0.0765
r113 1 8 0.119
r114 1 9 0.1275
r115 1 4 0.068
.ends

.subckt PM_AO222X1%N$20 2 4 7 11 15 17 18 20 22 23 27 32 35 37 41 46 51
c90 51 0 0.170404f
c91 46 0 0.0735489f
c92 41 0 0.0890869f
c93 37 0 0.0350758f
c94 35 0 0.0522964f
c95 27 0 0.0284629f
c96 23 0 0.150018f
c97 22 0 0.0415726f
c98 20 0 0.0225211f
c99 18 0 0.0668643f
c100 17 0 0.280127f
c101 15 0 0.395093f
c102 11 0 0.211522f
c103 7 0 0.721302f
c104 4 0 0.250521f
c105 2 0 0.115162f
r106 46 51 0.0566888
r107 43 44 7
r108 41 43 0.131739
r109 37 39 0.141667
r110 33 35 0.0920833
r111 28 39 0.00499195
r112 27 41 0.0138203
r113 27 28 0.0920833
r114 25 35 0.00499195
r115 25 51 0.51
r116 24 32 0.00935391
r117 23 37 0.00499195
r118 23 24 0.559583
r119 22 33 0.00499195
r120 21 32 0.0359928
r121 21 22 0.389583
r122 20 32 0.0359928
r123 19 31 0.0222544
r124 19 20 0.162917
r125 17 44 33.3333
r126 17 18 0.139
r127 13 15 30.4348
r128 9 15 9.32053
r129 9 11 37.5
r130 5 18 14.6202
r131 5 7 214.583
r132 4 18 14.6202
r133 3 13 9.32053
r134 3 4 83.3333
r135 2 31 0.0372399
.ends

.subckt PM_AO222X1%D_GND 1 7 8 9 10 11 33 36 39 42 45 65
c61 65 0 0.519039f
c62 45 0 0.631464f
c63 43 0 0.0779126f
c64 42 0 0.386684f
c65 40 0 0.0688308f
c66 39 0 0.302823f
c67 37 0 0.0701213f
c68 36 0 0.51775f
c69 34 0 0.0701213f
c70 33 0 0.621228f
c71 11 0 0.333344f
c72 10 0 0.110082f
c73 9 0 0.141674f
c74 8 0 0.15254f
c75 7 0 0.16586f
c76 1 0 0.0701213f
r77 42 43 0.0359928
r78 41 43 0.0359928
r79 39 40 0.0329425
r80 38 40 0.0329425
r81 36 37 0.0329425
r82 35 37 0.0329425
r83 33 34 0.0329425
r84 32 34 0.0329425
r85 28 43 0.00935391
r86 24 40 0.0120155
r87 20 37 0.0120155
r88 16 34 0.0120155
r89 11 28 0.2805
r90 10 24 0.155833
r91 9 20 0.146389
r92 8 16 0.146389
r93 7 12 0.17
r94 1 12 0.0120155
r95 1 45 0.0329425
r96 1 49 0.0329425
r97 1 65 0.14025
r98 1 41 0.16575
r99 1 42 0.15725
r100 1 38 0.2125
r101 1 39 0.119
r102 1 35 0.1615
r103 1 36 0.034
r104 1 32 0.1445
r105 1 33 0.051
r106 1 49 0.2125
r107 1 45 0.255
.ends

.subckt PM_AO222X1%N$11 2 4 7 8 9 10 13 17 21 22 24 25 26 28 30 33 34 40 42 44
+ 48
c105 48 0 0.0484616f
c106 44 0 0.0883732f
c107 42 0 0.0621818f
c108 34 0 0.137876f
c109 33 0 0.048053f
c110 30 0 0.072503f
c111 28 0 0.0217474f
c112 26 0 0.0252598f
c113 25 0 0.0703629f
c114 24 0 0.0482033f
c115 22 0 0.0400005f
c116 21 0 0.105573f
c117 17 0 0.322109f
c118 13 0 0.438277f
c119 10 0 0.0680231f
c120 9 0 0.256377f
c121 8 0 0.0782102f
c122 7 0 0.329199f
c123 4 0 0.311381f
c124 2 0 0.0816637f
r125 42 48 0.0475808
r126 34 45 15.2843
r127 34 44 15.2843
r128 33 34 7
r129 31 40 0.0004726
r130 31 33 0.118056
r131 29 40 0.0497087
r132 29 30 0.439167
r133 28 40 0.0497087
r134 27 28 0.226667
r135 25 27 0.0474919
r136 25 26 0.10625
r137 24 26 0.0474919
r138 24 39 0.134583
r139 21 30 0.0474919
r140 21 22 0.27625
r141 19 22 0.0493515
r142 19 48 0.095
r143 15 17 75
r144 11 13 112.5
r145 9 11 13.9682
r146 9 10 56.25
r147 7 15 13.9682
r148 7 8 75
r149 5 10 13.9682
r150 5 44 31.25
r151 4 8 13.9682
r152 4 45 114.583
r153 2 39 0.0566888
.ends

.subckt PM_AO222X1%OR3 2 3 7 11 12 14 15 16 19 20 21 22 28 30 34 37 40
c92 40 0 0.0816688f
c93 37 0 0.156825f
c94 34 0 0.0825652f
c95 30 0 0.0719566f
c96 28 0 0.033161f
c97 22 0 0.00919523f
c98 21 0 0.0308877f
c99 20 0 0.0104646f
c100 19 0 0.0170341f
c101 16 0 0.0239228f
c102 15 0 0.0833243f
c103 14 0 0.386403f
c104 12 0 0.146198f
c105 7 0 0.680374f
c106 3 0 0.54587f
r107 34 40 0.0566888
r108 29 37 15.2843
r109 28 31 0.0141667
r110 28 30 0.0519666
r111 28 29 7
r112 23 30 0.255
r113 21 31 0.0216719
r114 21 22 0.141667
r115 19 23 0.0474919
r116 19 20 0.14875
r117 17 22 0.0474919
r118 17 40 0.48875
r119 16 20 0.0474919
r120 15 16 0.226667
r121 12 14 10.9936
r122 12 13 28.1811
r123 11 14 110.417
r124 7 13 195.833
r125 3 12 4.96721
r126 3 37 166.667
r127 2 15 0.106677
.ends

.subckt PM_AO222X1%OR2 2 5 9 14 16 21 28 30 32 35 39 43
c68 43 0 0.0761698f
c69 39 0 0.20677f
c70 35 0 0.0775298f
c71 32 0 0.231833f
c72 30 0 0.0163882f
c73 28 0 0.0154264f
c74 21 0 0.0955749f
c75 16 0 0.162724f
c76 14 0 0.128202f
c77 9 0 0.432643f
c78 5 0 0.616607f
c79 2 0 0.0836047f
r80 35 43 0.0566888
r81 31 39 15.2778
r82 31 36 4.16667
r83 30 32 0.0519666
r84 30 31 7
r85 19 21 0.155833
r86 18 28 0.00935391
r87 18 32 0.595
r88 16 21 0.00499195
r89 15 28 0.0359928
r90 15 16 0.474583
r91 14 28 0.0359928
r92 13 23 0.0216719
r93 13 14 0.311667
r94 11 19 0.00499195
r95 11 43 0.31875
r96 7 39 6.3741
r97 7 9 108.333
r98 3 36 6.3741
r99 3 5 208.333
r100 2 23 0.0330556
.ends

.subckt PM_AO222X1%N$61 3 4 7 10 13 17 20 23 24 25 26 28 30 31 39 40 46 48 50 53
+ 57
c88 57 0 0.247073f
c89 53 0 0.238559f
c90 50 0 0.0186131f
c91 48 0 0.0183163f
c92 46 0 0.0146352f
c93 45 0 0.0202019f
c94 40 0 0.0469877f
c95 39 0 0.0361792f
c96 31 0 0.0460198f
c97 30 0 0.0936495f
c98 28 0 0.0344915f
c99 26 0 0.0297458f
c100 25 0 0.0765169f
c101 24 0 0.0372224f
c102 23 0 0.104667f
c103 20 0 0.0406614f
c104 17 0 0.235645f
c105 13 0 0.204709f
c106 10 0 0.32238f
c107 7 0 0.579262f
c108 4 0 0.0700031f
c109 3 0 0.0676625f
r110 49 57 9.72222
r111 49 54 12.5
r112 48 50 0.0519666
r113 48 49 7
r114 39 53 0.136944
r115 39 40 0.0519666
r116 33 50 0.085
r117 32 46 0.0359928
r118 31 33 0.0474919
r119 31 32 0.141667
r120 30 46 0.00935391
r121 29 45 0.0359928
r122 29 30 0.34
r123 28 45 0.0359928
r124 28 44 0.0991667
r125 25 46 0.0359928
r126 25 26 0.4675
r127 23 45 0.00935391
r128 23 24 0.51
r129 21 26 0.0474919
r130 21 40 0.240833
r131 20 24 0.0482586
r132 20 38 0.0793333
r133 15 17 26.4706
r134 11 17 5.69162
r135 11 13 37.5
r136 10 57 6.3741
r137 9 15 5.69162
r138 9 10 110.417
r139 5 54 6.3741
r140 5 7 154.167
r141 4 44 0.0519666
r142 3 38 0.0451117
.ends

.subckt PM_AO222X1%OUT 2 5 6 10 13 16 19
c34 19 0 0.0977907f
c35 16 0 0.082984f
c36 13 0 0.104139f
c37 6 0 0.161357f
c38 5 0 0.187314f
r39 16 19 0.0566888
r40 11 13 0.113333
r41 6 13 0.00499195
r42 5 10 0.0534403
r43 5 6 0.545417
r44 3 11 0.00499195
r45 3 19 0.283333
r46 2 10 0.100203
.ends

.subckt PM_AO222X1%OR1 2 5 7 8 12 13 14 18 20 22 27 33 36 37 43
c73 43 0 0.145016f
c74 37 0 0.230471f
c75 36 0 0.0825652f
c76 33 0 0.0663788f
c77 27 0 0.0516639f
c78 22 0 0.0827865f
c79 20 0 0.0954481f
c80 18 0 0.04299f
c81 14 0 0.0781349f
c82 13 0 0.328521f
c83 12 0 0.56585f
c84 8 0 0.0712541f
c85 7 0 0.185112f
c86 5 0 0.559248f
r87 36 43 0.0566888
r88 25 27 0.0779167
r89 23 37 15.2778
r90 22 24 0.157624
r91 22 23 7
r92 20 33 0.0216719
r93 19 24 0.0130406
r94 19 20 0.368333
r95 18 27 0.00499195
r96 17 29 0.0216719
r97 17 18 0.2975
r98 15 25 0.00499195
r99 15 43 0.453333
r100 13 37 6.3741
r101 13 14 112.5
r102 10 12 170.833
r103 9 14 13.9682
r104 9 12 25
r105 7 10 13.9682
r106 7 8 41.6667
r107 3 8 13.9682
r108 3 5 154.167
r109 2 33 0.0566667
r110 2 29 0.0141667
.ends

.subckt PM_AO222X1%N$2 2 4 7 11 15 17 22 23 24 26 28 29 34 41 48
c59 48 0 0.0752829f
c60 41 0 0.0663318f
c61 34 0 0.040292f
c62 29 0 0.196031f
c63 28 0 0.0468055f
c64 26 0 0.111989f
c65 24 0 0.019694f
c66 23 0 0.0743127f
c67 22 0 0.0714225f
c68 17 0 0.0615936f
c69 15 0 0.20084f
c70 11 0 0.209619f
c71 7 0 0.378666f
c72 4 0 0.283497f
c73 2 0 0.110782f
r74 41 48 0.0566888
r75 33 34 0.0779167
r76 29 42 15.2778
r77 28 31 0.0236111
r78 28 29 7
r79 26 39 0.219583
r80 23 26 0.0474919
r81 23 24 0.14875
r82 22 34 0.00499195
r83 21 24 0.0474919
r84 21 22 0.57375
r85 19 33 0.00499195
r86 19 48 0.226667
r87 18 31 0.0216719
r88 17 33 0.0425
r89 17 18 0.226667
r90 13 15 39.5833
r91 9 15 1.46822
r92 9 11 37.5
r93 5 42 6.3741
r94 5 7 91.6667
r95 4 42 6.3741
r96 3 13 1.46822
r97 3 4 100
r98 2 39 0.0566888
.ends

.subckt PM_AO222X1%E 2 5 7 9 10 11 13
c21 13 0 0.0908258f
c22 11 0 0.0756056f
c23 10 0 0.288063f
c24 7 0 0.475587f
c25 5 0 0.831663f
c26 2 0 0.168003f
r27 13 16 7
r28 10 16 30.5556
r29 10 11 0.139
r30 7 9 41.6667
r31 3 11 14.6202
r32 3 5 218.75
r33 2 11 14.6202
r34 1 7 29.2529
r35 1 2 52.0833
.ends

.subckt PM_AO222X1%F 3 7 10 13
c26 13 0 0.146807f
c27 10 0 0.025055f
c28 7 0 0.778276f
c29 3 0 0.50883f
r30 13 17 15.2843
r31 13 16 15.2843
r32 10 13 7
r33 7 17 218.75
r34 3 16 147.917
.ends

.subckt PM_AO222X1%D 4 5 7 8 10 12 15 18
c29 18 0 0.193067f
c30 15 0 0.143834f
c31 12 0 0.0301341f
c32 8 0 0.235037f
c33 5 0 0.335945f
c34 4 0 0.553859f
r35 15 19 15.2843
r36 15 18 15.2843
r37 12 15 7
r38 8 10 41.6667
r39 5 7 41.6667
r40 4 8 26.1378
r41 4 19 141.667
r42 1 5 26.1378
r43 1 18 70.8333
.ends

.subckt PM_AO222X1%C 2 3 5 9 13 15
c40 15 0 0.0158784f
c41 13 0 0.323316f
c42 9 0 0.487249f
c43 5 0 0.387033f
c44 3 0 0.120531f
c45 2 0 0.228997f
r46 13 17 5.44425
r47 13 15 7
r48 7 13 15.2439
r49 7 9 125
r50 3 5 102.083
r51 2 17 9.2994
r52 1 3 26.1378
r53 1 2 81.25
.ends

.subckt PM_AO222X1%B 3 7 10 13
c34 13 0 0.34009f
c35 10 0 0.00666928f
c36 7 0 0.59091f
c37 3 0 0.549277f
r38 13 15 4.96524
r39 10 13 7
r40 5 13 23.5849
r41 5 7 187.5
r42 1 15 7.7184
r43 1 3 147.917
.ends

.subckt PM_AO222X1%A 3 7 11 12 14 16 19
c24 19 0 0.211929f
c25 16 0 0.0714387f
c26 14 0 0.0718694f
c27 12 0 0.274072f
c28 11 0 0.258839f
c29 7 0 0.463944f
c30 3 0 0.386045f
r31 16 19 7
r32 13 19 20.8333
r33 13 14 0.139
r34 11 12 30.9286
r35 9 14 14.6202
r36 9 11 77.0833
r37 5 14 14.6202
r38 5 7 135.417
r39 3 12 87.5
.ends

